US06749988B2
Synthesis of 4-[2-(tetrahydrofurfurylmethoxy)ethyl]-morpholine
To a suspension of 25 g sodium hydride in 500 g tetrahydrofuran, 131 g of 2-morpholino ethanol and 182 g of tetrahydrofurfuryl bromide were successively added dropwise. Thereafter, 1 9 of sodium iodide was added to the solution, which was heated under reflux for 100 hours. After cooling, the reaction solution was washed with an aqueous saturated sodium chloride solution, concentrated in vacuum, and purified by vacuum distillation, whereby 120 g of 4-[2-(tetrahydrofurfurylmethoxy)ethyl]morpholine, designated [B-43], was obtained (boiling point 97° C./24 Pa, yield: 56%).

reactant | sodium hydride | 25 g | [H-].[Na+]
reactant | 2-morpholino ethanol | 131 g | O1CCN(CC1)CCO | C6H13NO2
reactant | tetrahydrofurfuryl bromide | 182 g | C(C1CCCO1)Br | C5H9BrO
reactant | sodium iodide | [I-].[Na+]
reactant | tetrahydrofuran | 500 g | O1CCCC1 | C4H8O
product | 4-[2-(tetrahydrofurfurylmethoxy)ethyl]-morpholine | yield: 56% | C(C1CCCO1)COCCN1CCOCC1 | C12H23NO3
